US08357679B2
D: 1-(Cyclopropylmethyl)-3-(4-(Piperazine-1-carbonyl)phenyl)urea
tert-Butyl 4-(4-(3-(cyclopropylmethyl)ureido)benzoyl)piperazine-1-carboxylate (46.7 mmol, 18.78 g) was dissolved in dichloromethane (30 mL) and trifluoroacetic acid (233 mmol, 17.33 mL, 26.6 g) added. The reaction was stirred for 1 hour and then concentrated under reduced pressure. The crude material was triturated with ether to give a white powder after high vacuum drying, which was taken up in water and carefully taken to pH 10 with sodium carbonate. The aqueous was extracted with dichloromethane and the combined organic phases were dried, filtered and concentrated under reduced pressure to give the title compound (13.4 g)

reactant | tert-Butyl 4-(4-(3-(cyclopropylmethyl)ureido)benzoyl)piperazine-1-carboxylate | 46.7 mmol, 18.78 g | C1(CC1)CNC(NC1=CC=C(C(=O)N2CCN(CC2)C(=O)OC(C)(C)C)C=C1)=O | C21H30N4O4
reactant | trifluoroacetic acid | 233 mmol, 17.33 mL, 26.6 g | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | 1-(Cyclopropylmethyl)-3-(4-(Piperazine-1-carbonyl)phenyl)urea | 13.4 g | C1(CC1)CNC(=O)NC1=CC=C(C=C1)C(=O)N1CCNCC1 | C16H22N4O2
